US06667335B2
5-(3,4-Dichloro-phenyl)-nicotinic Acid Methyl Ester
To a solution of 5-bromopyridine-3-carboxylic acid methyl ester (2 g, 9.3 mmol) in toluene (50 ml) was added tetrakis-(triphenylphosphine)-palladium (0) (320 mg, 0.28 mmol) followed by LiCl (785 mg, 18.5 mmol) and the mixture was stirred 30 min at 20° C. Then 3,4-dichlorophenyl boronic acid (50 wt % in THF/H2O 9:1) (3.7 g, 3.3 ml, 9.7 mmol) and 2N aq. K2CO3 (11.3 ml, 2.5 eq.) were added and the stirred mixture heated under an argon atmosphere at 100° C. for 23 h. After cooling, H2O was added (25 ml) and the aqueous phase separated and extracted with AcOEt. The combined organic extracts were washed with saturated NaCl solution, dried with Na2SO4, filtered and the solvent evaporated and the product dried under high vacuum at 50° C. for 2 h to afford the title compound (2.48g, 95%) as a beige solid. MS: m/e=281.0 (M+H+).

reactant | 5-bromopyridine-3-carboxylic acid methyl ester | 9.3 mmol, 2 g | COC(=O)C=1C=NC=C(C1)Br | C7H6BrNO2
reactant | LiCl | 18.5 mmol, 785 mg | [Li+].[Cl-]
reactant | 3,4-dichlorophenyl boronic acid | 9.7 mmol, 3.3 ml, 3.7 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | K2CO3 | 2N, 11.3 ml, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine)-palladium (0) | 0.28 mmol, 320 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | H2O | O | H2O
product | 5-(3,4-Dichloro-phenyl)-nicotinic Acid Methyl Ester | 2.48g, 95% | COC(C1=CN=CC(=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C13H9Cl2NO2
